US07863269B2
11c) 3-Dimethylamino-N-methoxy-N-methyl-5-pentafluorosulfanylbenzamide
3-Dimethylamino-5-pentafluorosulfanylbenzoic acid (1.0 g) was dissolved in methylene chloride (60 ml). Thionyl chloride (5 ml) was added with stirring and the mixture was stirred at RT for 2 h. To complete the reaction, it was subsequently heated at reflux for 3 h. After cooling, the solvent was stripped off, and the residue was dissolved in methylene chloride (50 ml), treated with N,O-dimethylhydroxylamine hydrochloride and Hünig's base (1 ml) was added. After stirring for one hour, the solvent was stripped off, and the residue was taken up with ethyl acetate and washed 5 times with water. The organic phase was dried with magnesium sulfate, filtered and concentrated. 980 mg of the title compound were obtained, which were reacted directly in the next stage.

reactant | 3-Dimethylamino-5-pentafluorosulfanylbenzoic acid | 1.0 g | CN(C=1C=C(C(=O)O)C=C(C1)S(F)(F)(F)(F)F)C | C9H10F5NO2S
reactant | Thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N,O-dimethylhydroxylamine hydrochloride | Cl.CNOC
reactant | Hünig's base | 1 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Dimethylamino-N-methoxy-N-methyl-5-pentafluorosulfanylbenzamide | 980 mg | CN(C=1C=C(C(=O)N(C)OC)C=C(C1)S(F)(F)(F)(F)F)C | C11H15F5N2O2S
